US05726319
Step E: N-(t-Butoxycarbonyl)-4,4-dimethylazetidin-2-one
A 5 L, 3-neck round bottom flask equipped with a magnetic stirrer, thermometer, nitrogen bubbler and addition funnel was charged with 88.2 g (0.89 mol) of 4,4-dimethylazetidin-2-one, 800 mL of methylene chloride, 150 mL of triethylamine (1.08 mol) and 10.9 g (0.089 mol) of 4-dimethylaminopyridine. To the stirred solution at room temperature was added dropwise over 15 minutes a solution of 235 g (1.077 mol) of di-t-butyl-dicarbonate in 300 mL of methylene chloride. The reaction mixture was stirred at room temperature overnight then diluted with 1 L of methylene chloride and washed with 500 mL of saturated aqueous ammonium chloride, 500 mL of water, and 500 mL of saturated aqueous sodium chloride. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated under vacuum to afford 180.3 g of crude product as an orange solid. The material was used directly in Step F without purification.

reactant | 4,4-dimethylazetidin-2-one | 0.89 mol, 88.2 g | CC1(CC(N1)=O)C | C5H9NO
reactant | triethylamine | 1.08 mol, 150 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl-dicarbonate | 1.077 mol, 235 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.089 mol, 10.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | N-(t-Butoxycarbonyl)-4,4-dimethylazetidin-2-one | 180.3 g | C(C)(C)(C)OC(=O)N1C(CC1(C)C)=O | C10H17NO3
